US09399646B2
Step 6: (2-(Ethoxycarbonyl)-2,3-dihydro-1H-inden-5-yl)boronic acid
A mixture of ethyl 5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-2,3-dihydro-1H-indene-2-carboxylate (16 g, 50% purity, 25.3 mmol), NaIO4 (24 g, 0.112 mol), CH3COONH4 (5.2 g, 0.068 mol), acetone (100 mL), and water (10 mL) was stirred at room temperature overnight. The acetone was evaporated, and the aqueous residue was extracted with EtOAc (3×100 mL). The organic layer was dried over MgSO4 and concentrated in vacuo to afford the title compound as white solid (3.5 g). 1HNMR (400 MHz, DMSO-d6): δ 7.91 (s, 2H), 7.62 (s, 1H), 7.57 (d, 1H), 7.17 (d, 1H), 4.10 (q, 2H), 3.36-3.32 (m, 1H), 3.09-3.07 (m, 4H), 1.20 (t, 3H).

reactant | ethyl 5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-2,3-dihydro-1H-indene-2-carboxylate | 25.3 mmol, 16 g | CC1(OB(OC1(C)C)C=1C=C2CC(CC2=CC1)C(=O)OCC)C | C18H25BO4
reactant | CH3COONH4 | 0.068 mol, 5.2 g | CC(=O)[O-].[NH4+]
reactant | acetone | 100 mL | CC(=O)C | C3H6O
solvent | water | 10 mL | O | H2O
product | (2-(Ethoxycarbonyl)-2,3-dihydro-1H-inden-5-yl)boronic acid | 3.5 g | C(C)OC(=O)C1CC2=CC=C(C=C2C1)B(O)O | C12H15BO4
